US06087380
2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride
Prepared analogously to Example 9 from 2-[2-(4-cyanophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 95% of theory, C26H25N5O3S (487.58) Rf value: 0.20 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) EKA mass spectrum: (M+H)+ =488

reactant | 2-[2-(4-cyanophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide | N1=C(C=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CCC2=CC=C(C=C2)C#N)C1)CC(=O)OCC | C26H22N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[2-(4-amidinophenyl)ethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride | Yield: 95% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CCC2=CC=C(C=C2)C(N)=N)C1)CC(=O)OCC | InChI=1S/C26H25N5O3S.2ClH/c1-2-34-24(32)16-31(22-5-3-4-14-29-22)26(33)19-11-12-21-20(15-19)30-23(35-21)13-8-17-6-9-18(10-7-17)25(27)28;;/h3-7,9-12,14-15H,2,8,13,16H2,1H3,(H3,27,28);2*1H
